US07598257B2
Step 1. 1-phenyl-4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.07 g, 0.0003 mol) and phenylboronic acid (0.083 g, 0.00068 mol) were combined in DMF (1.50 mL, 0.0194 mol). Then copper(II) diacetate (0.010 g, 0.000055 mol) and pyridine (0.069 mL, 0.00085 mol) were added. The reaction was heated in an open tube to 80° C. for 40 minutes. The reaction was complete by HPLC, allowed to cool to rt, taken up in ethyl acetate, and washed with water saturated with sodium carbonate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated to give 1-phenyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazo, 0.09 gm as an oily residue, LC/MS (M+H)+: 271.

reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0003 mol, 0.07 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | phenylboronic acid | 0.00068 mol, 0.083 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DMF | 0.0194 mol, 1.50 mL | CN(C)C=O | C3H7NO
reactant | pyridine | 0.00085 mol, 0.069 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) diacetate | 0.000055 mol, 0.010 g | C(C)(=O)[O-].C(C)(=O)[O-].[Cu+2]
product | 1-phenyl-4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C1(=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H19BN2O2
